US05631373
Preparation of 7-Chloro-6-methoxy-5-nitro-1,4-dihydroquinoxaline-2,3-dione
To a stirred solution of 7-Chloro-6-fluoro-5-nitroquinoxaline-2(1H),3(4H)-dione (0.100 g, 0.385 mmol, as prepared above) in DMSO (1.0 mL) at room temperature, sodium methoxide (0.125 g, 2.31 mmol, Mallinckrodt) was added in one portion. The resulting dark red solution was stirred overnight at room temperature. It was then diluted with water (5.0 mL) and acidified with concentrated HCl (6 drops) to pH ~2. The precipitated solid was filtered, washed with water (5.0 mL), and dried under vacuum to obtain 0.116 g (110%) of pure (1H NMR) title compound as a yellow powder; m.p. darkens at 316° C.; 1H NMR (DMSO-d6): δ3.821 (s, 3H), 7.275 (s, 1H), 12.079 (s, 1H) 12.121 (s, 1H). The NMR also indicates the presence of DMSO (reaction solvent).

reactant | 7-Chloro-6-fluoro-5-nitroquinoxaline-2(1H),3(4H)-dione | 0.385 mmol, 0.100 g | ClC1=C(C(=C2NC(C(NC2=C1)=O)=O)[N+](=O)[O-])F | C8H3ClFN3O4
reactant | sodium methoxide | 2.31 mmol, 0.125 g | C[O-].[Na+]
solvent | DMSO | 1.0 mL | CS(=O)C | C2H6OS
solvent | water | 5.0 mL | O | H2O
catalyst | HCl | 6 drops | Cl | ClH
product | 7-Chloro-6-methoxy-5-nitro-1,4-dihydroquinoxaline-2,3-dione | ClC1=C(C(=C2NC(C(NC2=C1)=O)=O)[N+](=O)[O-])OC | C9H6ClN3O5
